US09102614B2
Ethyl 2-(3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate (1.31 g, 3.3 mmol) was dissolved in toluene (20 mL) and cooled to −40° C. After stirring for 20 minutes, (R)-(+)-2-Methyl-CBS-oxazaborolidine (219 mg, 7.5 mmol) and catechol borane (750 μL, 7.04 mmol) were added and the mixture stirred at −40° C. After 2 hrs at −40° C. the reaction was quenched by the addition of 15% Na2CO3 (12 mL) and the mixture was allowed to warm to room temperature. The mixture was washed with 15% Na2CO3 (8×12 mL) and saturated NH4Cl (24 mL), organic layer was dried with sodium sulfate and concentrated in vacuo. Chromatography using silica gel using EtOAc in hexanes produced the desired (S)-ethyl 2-hydroxy-2-(3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate (976 mg, 1.8 mmol) in 74% yield. 1H-NMR: 400 MHz, (CDCl3): δ 8.08-8.06 (m, 1H); 7.81-7.79 (m, 1H); 7.69 (s, 1H); 7.60-7.57 (m, 2H); 5.81-5.80 (m, 1H); 4.35-4.19 (m, 2H); 3.42 (d, J=2.4 Hz, 1H); 2.50 (s, 3H); 1.21 (t, J=7.0 Hz, 3H).

reactant | Ethyl 2-(3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate | 3.3 mmol, 1.31 g | CC=1C(=C(C2=CC=CC=C2C1)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)=O | C16H13F3O6S
reactant | (R)-(+)-2-Methyl-CBS-oxazaborolidine | 7.5 mmol, 219 mg | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | catechol borane | 7.04 mmol, 750 μL | [B]1OC2=CC=CC=C2O1 | C6H4BO2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-ethyl 2-hydroxy-2-(3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | 1.8 mmol, 976 mg, 74% yield | O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)OS(=O)(=O)C(F)(F)F | C16H15F3O6S
